US07157476B2
2-(3-(3-(piperazin-1-yl)propoxy)phenyl)-N-(5-(4-amino-1,2,5-oxadiazol-3-yl)-1,3,4-thiadiazol-2-yl)acetamide (I-71):
N-Trifluoroacetyl-4-(5-(3-(3-chloro-propoxy)-phenylacetyl)amino-[1,3,4]thiadiazol-2-yl)-furazan-3-ylamine (0.05 g, 0.1 mmol), piperazine (0.035 g, 0.4 mmol) and EtOH (0.3 mL) were heated by microwave irradiation at 120° C. for 2×10 minutes. The reaction was diluted with water and purified by preparative HPLC. Yield: 0.03 g (33%). 1H-NMR (MeOD) δ 7.25 (t, 1H), 6.90–6.95 (m, 2H), 6.85 (d, 1H), 4.12 (t, 2H), 3.82 (s, 2H), 3.3.10–3.15 (m, 6H), 3.00 (t, 3H), 2.10–2.15 (m, 3H). LCMS 445.2 (M+1), HPLC Method B Rt 1.6 minutes.

reactant | N-Trifluoroacetyl-4-(5-(3-(3-chloro-propoxy)-phenylacetyl)amino-[1,3,4]thiadiazol-2-yl)-furazan-3-ylamine | 0.1 mmol, 0.05 g | FC(C(=O)NC1=NON=C1C=1SC(=NN1)NC(CC1=CC(=CC=C1)OCCCCl)=O)(F)F | C17H14ClF3N6O4S
reactant | piperazine | 0.4 mmol, 0.035 g | N1CCNCC1 | C4H10N2
reactant | EtOH | 0.3 mL | CCO | C2H6O
solvent | water | O | H2O
product | 2-(3-(3-(piperazin-1-yl)propoxy)phenyl)-N-(5-(4-amino-1,2,5-oxadiazol-3-yl)-1,3,4-thiadiazol-2-yl)acetamide | N1(CCNCC1)CCCOC=1C=C(C=CC1)CC(=O)NC=1SC(=NN1)C1=NON=C1N | C19H24N8O3S
